US08017792B2
Synthesis of 2-(4-ethylbenzyl)phenol
Then a mixture of (2-benzyloxyphenyl)(4-ethylphenyl)methanol (78.5 g), 10% palladium activated carbon (5.2 g), concentrated hydrochloric acid (10.4 mL) and methanol (850 mL) was stirred under hydrogen atmosphere at room temperature for 24 hours. After filtering off the insolubles, the filtrate was evaporated under reduced pressure and then, the residue was distilled under reduced pressure to obtain the title compound (56.8 g) as a colorless oil.

reactant | (2-benzyloxyphenyl)(4-ethylphenyl)methanol | 78.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)CC | C22H22O2
reactant | hydrochloric acid | 10.4 mL | Cl | ClH
catalyst | palladium activated carbon | 5.2 g | [Pd] | Pd
solvent | methanol | 850 mL | CO | CH4O
product | 2-(4-ethylbenzyl)phenol | 56.8 g | C(C)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C15H16O
